Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ F with chronic abdominal pain who presents with
abdominal pain. She reports typically she has pain in her
bilateral hips, right lower quadrant, and right upper quadrant.
The quality of the pain is unchanged but it has gotten worse 
over
the last 2 weeks particularly in the left upper quadrant. The
pain is sharp and worse with deep breathing. It is associated
with some nausea but no vomiting. She denies any fevers or 
cough.
She denies any history of blood clots, lower extremity pain,
recent travel, recent surgery, OCPs, or cigarettes. She denies
any falls or trauma to the area. No constipation, diarrhea,
hematochezia, or melena. No vaginal bleeding, dysuria, or
hematuria. No history of kidney stones. She is currently on her
period.

 
Past Medical History:
Recently diagnosed with chronic abd pain (negative MRI abd
pelvis, negative CT abd pelvis, negative TV ultrasound) followed
by GI

 
Social History:
___
Family History:
Maternal GF with colorectal CA
No blood malignancies
No other ___

 
Physical Exam:
ADMISSION EXAM:
=================
General: Appearing stated age
HEENT: NCAT, PEERL, MMM 
Neck: Supple, trachea midline
Heart: RRR, no MRG. No peripheral edema. 
Lungs: CTAB. No wheezes, rales, or rhonchi.
Abd: Soft, NTND. 
GU: No CVA tenderness
MSK: No obvious limb deformities.
Derm: Skin warm and dry. There is a patchy, macular rash that is
blanching on her chest and upper back. It is not itchy or 
raised.
Neuro: Awake, alert, moves all extremities.
Psych: Appropriate affect and behavior

DISCHARGE EXAM:
=================
General: Appearing stated age
HEENT: NCAT, PEERL, MMM 
Neck: Supple, trachea midline
Heart: RRR, no MRG. No peripheral edema. 
Lungs: CTAB. No wheezes, rales, or rhonchi.
Abd: Soft, NTND. 
GU: No CVA tenderness
MSK: No obvious limb deformities.
Derm: Skin warm and dry. There is a patchy, macular rash that is
blanching on her chest and upper back. It is not itchy or 
raised.
Neuro: Awake, alert, moves all extremities.
Psych: Appropriate affect and behavior

 
Pertinent Results:
ADMISSION EXAM:
===============
___ 10:30PM BLOOD WBC-11.2* RBC-4.42 Hgb-12.9 Hct-40.3 
MCV-91 MCH-29.2 MCHC-32.0 RDW-12.9 RDWSD-43.5 Plt ___
___ 10:30PM BLOOD Neuts-25* Bands-1 Lymphs-67* Monos-3* 
Eos-0* Baso-0 Atyps-4* AbsNeut-2.91 AbsLymp-7.95* AbsMono-0.34 
AbsEos-0.00* AbsBaso-0.00*
___ 10:30PM BLOOD Plt Smr-NORMAL Plt ___
___ 10:30PM BLOOD D-Dimer-1225*
___ 10:30PM BLOOD Glucose-98 UreaN-10 Creat-0.9 Na-139 
K-3.8 Cl-102 HCO3-24 AnGap-13
___ 01:45AM BLOOD ALT-313* AST-328* AlkPhos-262* 
TotBili-0.5
___ 10:30PM BLOOD Albumin-4.1 Calcium-9.3 Phos-3.6 Mg-2.0

DISCHARGE LABS:
================
___ 10:30PM BLOOD WBC-11.2* RBC-4.42 Hgb-12.9 Hct-40.3 
MCV-91 MCH-29.2 MCHC-32.0 RDW-12.9 RDWSD-43.5 Plt ___
___ 10:30PM BLOOD Neuts-25* Bands-1 Lymphs-67* Monos-3* 
Eos-0* Baso-0 Atyps-4* AbsNeut-2.91 AbsLymp-7.95* AbsMono-0.34 
AbsEos-0.00* AbsBaso-0.00*
___ 10:30PM BLOOD Plt Smr-NORMAL Plt ___
___ 10:30PM BLOOD D-Dimer-1225*
___ 10:30PM BLOOD Glucose-98 UreaN-10 Creat-0.9 Na-139 
K-3.8 Cl-102 HCO3-24 AnGap-13
___ 01:45AM BLOOD ALT-313* AST-328* AlkPhos-262* 
TotBili-0.5
___ 10:30PM BLOOD Albumin-4.1 Calcium-9.3 Phos-3.6 Mg-2.___ F with chronic abdominal pain who presents with 2 weeks of 
new
LUQ abdominal pain, recent history of sore throat found to have
lymphocytosis, transaminitis, lymphadenopathy on CT, and 
positive
monospot consistent with EBV mononucleosis.

ACUTE/ACTIVE ISSUES:
====================
#EBV mononucleosis
#LUQ abdominal pain
#Transaminitis
Findings extremely typical for infectious mononucleosis with LUQ 
pain likely due to splenomegaly, recent history of sore throat, 
mildly elevated WBC, lymphocytic predominance on differential, 
and transaminitis confirmed with positive monospot. Treatment 
consists of supportive therapy, and laboratory abnormalities
should be expected to self-resolve. Other etiologies for 
hepatocellular pattern transaminitis unlikely, no culprit meds 
or substance use. Can see this degree of transaminitis with 
acute mono so would recommend trending at upcoming GI apt on 
___.

TRANSITIONAL ISSUES:
====================
[] Please repeat LFTs at first follow up to ensure downtrending
[] Avoid contact sports for ___ weeks

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Omeprazole 20 mg PO BID 

 
Discharge Medications:
1.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Infectious mononucleosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Why was I admitted to the hospital:
You were admitted to the hospital when your abdominal pain 
became worse.  You had lab testing done in the emergency 
department which showed elevated liver tests.  You had an 
imaging test to rule out a blood clot in your lungs, and this 
showed that you had an enlarged spleen.  You had blood testing 
and you tested positive for mono.

What was done while I was here:
You are given some pain meds through your IV.  We confirmed that 
your liver tests were not continuing to rise.  He were 
discharged home with a plan to follow-up with your GI doctor on 
___.

What should I do and I go home:
Please avoid taking Tylenol until your liver tests are checked 
at your GI appointment.  Please avoid playing any contact sports 
for the next 4 to 6 weeks.  Please attend your follow-up 
appointment with GI on ___.
 
Followup Instructions:
___